US06472386B1
Synthesis of O-tert-Butyldimethylsilyl-L-serine methyl ester
L-Serine methyl ester hydrochloride (7.09 g) was suspended in dichloromethane (100 mL), and to the suspension 4-(dimethylamino)pyridine (700 mg) and triethylamine (9.69 g) were added, and tert-butyldimethylchlorosilane (7.0 g) were added portionwise at 0° C. to the mixture to conduct stirring at room temperature. The reaction mixture was washed with water and saturated brine, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was purified by column chromatography on silica gel (chloroform:methanol=20:1) to obtain the title compound.

reactant | L-Serine methyl ester hydrochloride | 7.09 g | Cl.COC([C@@H](N)CO)=O
reactant | triethylamine | 9.69 g | C(C)N(CC)CC | C6H15N
reactant | tert-butyldimethylchlorosilane | 7.0 g | C(C)(C)(C)[Si](Cl)(C)C | C6H15ClSi
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
catalyst | 4-(dimethylamino)pyridine | 700 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | O-tert-Butyldimethylsilyl-L-serine methyl ester | COC([C@@H](N)CO[Si](C)(C)C(C)(C)C)=O | C10H23NO3Si
